US06762205B1
825 mg of 4-cyanobenzoyl chloride was dissolved in 9 ml of dichloroethane, and mixed with 0.69 ml of 4-methoxybenzylamine and 1.57 ml of triethylamine, followed by stirring for 2.5 hours. Thereafter, the reaction was stopped by the addition of 1 ml of distilled water. After the product was extracted with chloroform, the extract was successively washed with 2 N hydrochloric acid, a saturated aqueous solution of sodium hydrogen carbonate, and a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. After the solvent was distilled off, the resulting crude product was purified by silica gel column chromatography (using a 20:1 mixture of chloroform and acetone as the eluent) to obtain 1.29 g of 4-cyano-N-(4-methoxy-benzyl)benzamide.

reactant | 4-cyanobenzoyl chloride | 825 mg | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | 4-methoxybenzylamine | 0.69 ml | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | triethylamine | 1.57 ml | C(C)N(CC)CC | C6H15N
reactant | water | 1 ml | O | H2O
solvent | dichloroethane | 9 ml | ClC(C)Cl | C2H4Cl2
product | 4-cyano-N-(4-methoxy-benzyl)benzamide | 1.29 g | C(#N)C1=CC=C(C(=O)NCC2=CC=C(C=C2)OC)C=C1 | C16H14N2O2
